US08466282B2
6-Fluoro-1-(4-methoxybutyl)-2-(trichloromethyl)-1H-benzimidazole (3.40 g) and 1-tert-butyl 3-methyl(3R,5S)-5-[(2-methylpropyl)amino]piperidine-1,3-dicarboxylate (3.14 g) were dissolved in acetonitrile (100 ml) and water (50 ml), cesium carbonate (32.6 g) was added, and the mixture was stirred at 60° C. for 17 hr. The reaction mixture was cooled to room temperature, adjusted to pH 7 with 1M hydrochloric acid, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:1) was concentrated under reduced pressure to give 1-tert-butyl 3-methyl(3R,5S)-5-[{[6-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1,3-dicarboxylate (1.60 g), and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give (3R,5S)-1-(tert-butoxycarbonyl)-5-[{[6-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid (1.36 g).

reactant | 6-Fluoro-1-(4-methoxybutyl)-2-(trichloromethyl)-1H-benzimidazole | 3.40 g | FC=1C=CC2=C(N(C(=N2)C(Cl)(Cl)Cl)CCCCOC)C1 | C13H14Cl3FN2O
reactant | 1-tert-butyl 3-methyl(3R,5S)-5-[(2-methylpropyl)amino]piperidine-1,3-dicarboxylate | 3.14 g | CC(CN[C@H]1C[C@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC)C | C16H30N2O4
reactant | cesium carbonate | 32.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | water | 50 ml | O | H2O
product | 1-tert-butyl 3-methyl(3R,5S)-5-[{[6-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1,3-dicarboxylate | 1.60 g | FC=1C=CC2=C(N(C(=N2)C(=O)N([C@H]2C[C@H](CN(C2)C(=O)OC(C)(C)C)C(=O)OC)CC(C)C)CCCCOC)C1 | C29H43FN4O6
